US06300352B1
c) (3RS, 4S)-4-(4-Bromophenoxy)-1-pyridin-3-yl-hex-1-yn-3-ol
Freshly activated (dried in oven at 300° C.) powdered molecular sieves (20 g, 3 Å, <5 micron) were added to (2S)-2-(4-bromophenoxy)-1-butanol (5.24 g, Example 87b)) and pyridinium dichromate (12.07 g) in anhydrous dichloromethane (200 ml). This mixture was treated with anhydrous acetic acid (2 drops) and stirred under nitrogen for 2 hours. Celite® (10 g) was added to the reaction mixture which was stirred for 20 minutes. Isohexane (100 ml) was added to this and the mixture filtered. The filtrate was concentrated under reduced pressure and the residue obtained was triturated in diethyl ether. This was filtered through anhydrous magnesium sulfate and the filtrate concentrated under reduced pressure. The residue obtained was assumed to be (2S)-2-(4-bromophenoxy)-1-butanal and dissolved in anhydrous tetrahydrofuran (40 ml). n-Butyl-lithium (5.88 ml, 2.5M solution in hexanes) was added dropwise to a solution of pyridin-3-ylacetylene (1.6g, J. Amer. Chem. Soc. 1935, 57, 1284) in anhydrous tetrahydrofuran (80 ml) at −70° C., under nitrogen. After stirring for 20 minutes the solution of the (2S)-2-(4-bromophenoxy)-1-butanal in tetrahydrofuran was added dropwise, maintaining the reaction temperature at −70° C.. The reaction mixture was then allowed to warm slowly to 0° C. and poured into brine (200 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic fractions were combined and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure to give an oil which was purified by flash column chromatography over silica eluting with isohexane : ethyl acetate (2:1). This gave the sub-title compound as an oil (3.42 g).

reactant | (2S)-2-(4-bromophenoxy)-1-butanal | BrC1=CC=C(O[C@H](C=O)CC)C=C1 | C10H11BrO2
reactant | n-Butyl-lithium | 2.5M, 5.88 ml | C(CCC)[Li]
reactant | pyridin-3-ylacetylene | 1.6g | N1=CC(=CC=C1)C#C | C7H5N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | brine | 200 ml | [Cl-].[Na+].O
product | (3RS, 4S)-4-(4-Bromophenoxy)-1-pyridin-3-yl-hex-1-yn-3-ol | 3.42 g | BrC1=CC=C(O[C@H](C(C#CC=2C=NC=CC2)O)CC)C=C1 | C17H16BrNO2
